US07528129B2
11e) (R)-1-(3-chloro-4-hydroxy-5-methyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 7i from 80 mg (0.16 mmol) (R)-1-carboxy-2-(3-chloro-4-hydroxy-5-methyl-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 29.8 mg (0.18 mmol) 1-(tetrahydropyran-4-yl)-piperazine.

reactant | (R)-1-carboxy-2-(3-chloro-4-hydroxy-5-methyl-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.16 mmol, 80 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)O)Cl)C(=O)O)C=CC=C2 | C25H28ClN3O6
reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.18 mmol, 29.8 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
product | (R)-1-(3-chloro-4-hydroxy-5-methyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC(=C(C(=C1)C)O)Cl)C=CC=C2 | C34H44ClN5O6
